US07220861B2
8.0 g of ethyl 2-(2-chloro-4,5-difluorobenzoyl)-3-(2,4-difluorophenylamino)acrylate was dissolved in 80 ml of acetonitrile under heating to 75˜80° C. 11.84 g (2.8 eq.) of K3PO4 was added in portions to the reaction mixture, which was then stirred at the same temperature for 2 hours. The reaction mixture was filtered under a reduced pressure and washed with 40 ml of dichloromethane. The filtrate was concentrated under a reduced pressure. The resulting residue was dissolved in 88 ml of dichloromethane and then washed with water. The organic layer was concentrated under a reduced pressure to give 6.69 g of ethyl 1-(2,4-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (Yield: 92%).

reactant | ethyl 2-(2-chloro-4,5-difluorobenzoyl)-3-(2,4-difluorophenylamino)acrylate | 8.0 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2=C(C=C(C=C2)F)F)C=C(C(=C1)F)F | C18H12ClF4NO3
reactant | K3PO4 | 11.84 g, 2.8 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | ethyl 1-(2,4-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 6.69 g, Yield: 92% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C18H11F4NO3
